* C:\Users\gerem\Documents\LTspiceXVII\PFN simulations\PFN_with_switch v2.asc
V1 N005 0 10k
L1 N012 N013 2.5e-6
C1 N013 0 10e-6 IC=0
R1 N003 0 0.5
L2 N013 N002 2.5e-6
L3 N011 N012 2.5e-6
C2 N012 0 10e-6 IC=0
L4 N010 N011 2.5e-6
L5 N009 N010 2.5e-6
C3 N011 0 10e-6 IC=0
C4 N010 0 10e-6 IC=0
L6 N008 N009 2.5e-6
L7 N007 N008 2.5e-6
L8 N006 N007 2.5e-6
C5 N009 0 10e-6 IC=0
C6 N008 0 10e-6 IC=0
C7 N007 0 10e-6 IC=0
C8 N006 0 10e-6 IC=0
V3 N004 0 PULSE(0 1 0 0.01m 0.01m 0.5m)
S1 N006 N005 N004 0 SW
V4 N001 0 PULSE(1 0 0 0.01m 0.01m 0.5m)
S3 N003 N002 N001 0 SW
R2 N001 0 1k
R3 N004 0 1k
.tran 1m
.model sw sw(Ron=1m Roff=1Meg Vt=0.5 Vh=0)
.backanno
.end
